US09278951B2
Synthesis of 1-(pyren-2-ylmethyl)-3-(quinoxalin-2-ylmethyl)-4,5-dichloroimidazolium bromide
4,5-Dichloroimidazole (0.18 g, 1.33 mmol) and potassium hydroxide (0.08 g, 1.46 mmol) will be dissolved in a minimum volume of acetonitrile and stirred at reflux for 30 min. 2-(Bromomethyl)pyrene (2.95 g, 10.0 mmol) will be added and the mixture will be returned to reflux for 3 h. The mixture will be filtered hot to remove the KBr generated. 2-(Bromomethyl)quinoxaline (2.23 g, 10.0 mmol) will be added to the filtrate and the mixture will be returned to reflux for 6 h. The volatile components will be removed under reduced pressure to yield the product

reactant | 4,5-Dichloroimidazole | 1.33 mmol, 0.18 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | potassium hydroxide | 1.46 mmol, 0.08 g | [OH-].[K+]
reactant | 2-(Bromomethyl)pyrene | 10.0 mmol, 2.95 g | BrCC1=CC2=CC=C3C=CC=C4C=CC(=C1)C2=C43 | C17H11Br
reactant | 2-(Bromomethyl)quinoxaline | 10.0 mmol, 2.23 g | BrCC1=NC2=CC=CC=C2N=C1 | C9H7BrN2
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(pyren-2-ylmethyl)-3-(quinoxalin-2-ylmethyl)-4,5-dichloroimidazolium bromide | [Br-].C1=C(C=C2C=CC3=CC=CC4=CC=C1C2=C34)C[N+]3=CN(C(=C3Cl)Cl)CC3=NC4=CC=CC=C4N=C3 | InChI=1S/C29H19Cl2N4.BrH/c30-28-29(31)35(16-23-14-32-24-6-1-2-7-25(24)33-23)17-34(28)15-18-12-21-10-8-19-4-3-5-20-9-11-22(13-18)27(21)26(19)20;/h1-14,17H,15-16H2;1H/q+1;/p-1
